US06337034B1
(E)-4-(2-(trans-4-(trans-4-pentylcyclohexyl)cyclohexyl)vinyl)benzoic acid in an amount of 1,3 g (3.7 mmol), 0.8 g (3.7 mmol) of 3,5-difluoro-4-trifluoromethoxyphenol, 0.1 g (1.1 mmol) of DMAP, and 30 ml of dichloromethane were mixed. To this mixture was added dropwise 5 ml of solution of 1.0 g (4.8 mmol) of DCC in dichloromethane while being cooled with ice in 5 min, and stirred as it was for 12 hours. Separated crystals were filtered off, and 80 ml of toluene was added to the filtrate, washed with 2N-NaOH five times and with water thrice, and then dried over anhydrous magnesium sulfate. The solvent was distilled off under a reduced pressure. The residue thus obtained was subjected to silica gel column chromatography (eluent: toluene) to obtain 1.7 g of a crude (E)-3,5-difluoro-4-trifluoromethoxyphenyl 4-(2-(trans-4-(trans-4-propylcyclohexyl)cyclohexyl)vinyl)benzoate.

reactant | (E)-4-(2-(trans-4-(trans-4-pentylcyclohexyl)cyclohexyl)vinyl)benzoic acid | C(CCCC)[C@@H]1CC[C@H](CC1)[C@@H]1CC[C@H](CC1)/C=C/C1=CC=C(C(=O)O)C=C1 | C26H38O2
reactant | 3,5-difluoro-4-trifluoromethoxyphenol | 3.7 mmol, 0.8 g | FC=1C=C(C=C(C1OC(F)(F)F)F)O | C7H3F5O2
reactant | DCC | 4.8 mmol, 1.0 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | toluene | C1(=CC=CC=C1)C | C7H8
catalyst | DMAP | 1.1 mmol, 0.1 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | (E)-3,5-difluoro-4-trifluoromethoxyphenyl 4-(2-(trans-4-(trans-4-propylcyclohexyl)cyclohexyl)vinyl)benzoate | 1.7 g | C(CC)[C@@H]1CC[C@H](CC1)[C@@H]1CC[C@H](CC1)/C=C/C1=CC=C(C(=O)OC2=CC(=C(C(=C2)F)OC(F)(F)F)F)C=C1 | C31H35F5O3
